US04900727
A solution of BF3 etherate (42 ml) in diethylene glycol dimethyl ether (42 ml) is added dropwise to a cooled mixture of 1-methyl-4-(2,4,6-trimethoxyphenyl)-1,2,3,6-tetrahydropyridine (20 g) and sodium borohydride (12 g) in diethylene glycol dimethyl ether (140 ml). The mixture is heated for one hour to 50° C., and the cooled reaction mixture is then treated with water (20 ml) and then with concentrated HCl (116 ml). The mixture is stirred for two hours at 50°-60° C., cooled and rendered alkaline with sodium hydroxide solution. Hydrogen peroxide solution (30%, 20 ml) is then added and the mixture is heated with stirring for two hours at 50°-60° C. The solution is cooled and extracted with ethyl acetate. The ethyl acetate extract is concentrated in vacuo. The residue is acidified with 2N HCl and extracted with ethyl acetate, and the organic layer is separated off. The aqueous layer is then rendered alkaline with sodium hydroxide solution and extracted with ether. The ether extract is washed with brine, dried over sodium sulfate and concentrated, a solid residue being obtained which is recrystallized from hot water, which gives trans-3-hydroxy-4-(2,4,6-trimethoxyphenyl)-1-methylpiperidine (12 g). Yield: 12 g; melting point 88°-89° C.

reactant | BF3 | 42 ml | B(F)(F)F | BF3
reactant | 1-methyl-4-(2,4,6-trimethoxyphenyl)-1,2,3,6-tetrahydropyridine | 20 g | CN1CCC(=CC1)C1=C(C=C(C=C1OC)OC)OC | C15H21NO3
reactant | sodium borohydride | 12 g | [BH4-].[Na+]
reactant | HCl | 116 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Hydrogen peroxide | 20 ml | OO | H2O2
solvent | diethylene glycol dimethyl ether | 42 ml | COCCOCCOC | C6H14O3
solvent | diethylene glycol dimethyl ether | 140 ml | COCCOCCOC | C6H14O3
solvent | water | 20 ml | O | H2O
product | trans-3-hydroxy-4-(2,4,6-trimethoxyphenyl)-1-methylpiperidine | 12 g | O[C@@H]1CN(CC[C@H]1C1=C(C=C(C=C1OC)OC)OC)C | C15H23NO4
